Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
Venetoclax dose escalation 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a generally healthy
___ gentleman who originally presented with persistent
nausea, lack of appetite, weight loss, and found to have an
abdominal mass with biopsy consistent with CLL/SLL. He initiated
treatment with Ibrutinib and initiated Venetoclax on ___.
He's now presenting for Venetoclax dose escalation and TLS
monitoring (50 mg - > 100 mg). 

ROS: 
Patient overall feeling well. He notes one episode of diarrhea
which resolved with one dose of Imodium since discharge on 50 mg
Venetoclax.  No n/v.  right sided neck pain noted last admission
has resolved. 

No fevers, chills.  No abnormal bleeding or bruising. Denies
chest discomfort, palpitations, shortness of breath, lower
extremity edema. No rashes/lesions. No urinary c/o, all other 
ROS
negative. 

 
Past Medical History:
ONCOLOGIC HISTORY: CT-guided left paraaortic lymph node biopsy 
on
___, which showed CLL/SLL.  By immunohistochemistry, the
lymphoma cells showed dim, heterogeneous expression of CD20 and
coexpressed CD5 and CD23 (variable subset).  BCL1 showed only 
dim
staining in a subset of cells.  BCL2 is diffusely positive.  
CD10
is negative.  Ki-67 proliferation index is 10 to 20%. 
Cytogenetics notable for Trisomy 12; there was no evidence of
other commonly observed cytogenetic abnormalities of prognostic
significance in CLL with no evidence of deletions of the ATM and
TP53 genes and deletion 13q14. For further workup prior to his
initial consultation, Mr. ___ subsequently underwent a PET
scan on ___.  This showed multilevel mildly FDG-avid
lymphadenopathy including axillary, mediastinal, retroperitoneal
and pelvic stations compatible with a biopsy-proven CLL.  There
was no area of marked increased FDG avidity or markedly enlarged
lymph node for concern of transformation.
- ___ initiated Ibrutinib 420mg daily
- Started venetoclax ramp up 20mg daily x1 week (___)
- Venetoclax 50 mg daily x1 week (___)
PAST MEDICAL HISTORY:
1.  Hypertension.
2.  Hypercholesterolemia.
3.  Prior septic arthritis of the right knee approximately ___
years ago and developed a DVT in the leg; very inactive at this
time and lost muscle mass but has recovered.
4.  Status post appendectomy.

 
Social History:
___
Family History:
No known history of lymphomas or leukemias.  He
has one brother and one sister who are in reasonable health by
his report.

 
Physical Exam:
ADMISSION PHYSICAL: 
24 HR Data (last updated ___ @ 1658)
    Temp: 97.8 (Tm 97.8), BP: 136/78, HR: 73, RR: 17, O2 sat:
98%, O2 delivery: RA, Wt: 152.7 lb/69.26 kg  
GENERAL:  Well-appearing gentleman in no acute distress.
HEENT:  PERRL with anicteric sclerae.  Oropharynx is moist
without erythema, lesions or thrush.
NECK:  Supple. Mild pain with palpation to right side, no 
obvious
deformity. ROM intact.
LUNGS:  Clear to auscultation bilaterally without wheezing or
rales.  Nonlabored.
HEART:  Regular rate and rhythm, faint holosystolic murmur, no
rubs or gallops.
ABDOMEN:  Soft and nondistended with some firmness noted in the
lower quadrant.  No hepatosplenomegaly is appreciated.
EXTREMITIES:  Without edema.
SKIN:  Without rashes.
NEUROLOGIC:  Grossly intact.

DISCHARGE PHYSICAL EXAM:
VSS
GENERAL:  Well-appearing gentleman in no acute distress.
HEENT:  PERRL with anicteric sclerae.  Oropharynx is moist
without erythema, lesions or thrush.
NECK:  Supple. Mild pain with palpation to right side, no 
obvious
deformity. ROM intact.
LUNGS:  Clear to auscultation bilaterally without wheezing or
rales.  Nonlabored.
HEART:  Regular rate and rhythm, faint holosystolic murmur, no
rubs or gallops.
ABDOMEN:  Soft and nondistended with some firmness noted in the
lower quadrant.  No hepatosplenomegaly is appreciated.
EXTREMITIES:  Without edema.
SKIN:  Without rashes.
NEUROLOGIC:  Grossly intact.

 
Pertinent Results:
ADMISSION LABS

___ 02:15PM BLOOD WBC: 5.2 RBC: 4.48* Hgb: 12.3* Hct: 37.8*
MCV: 84 MCH: 27.5 MCHC: 32.5 RDW: 14.3 RDWSD: 44.___ 
___ 02:15PM BLOOD Neuts: 64.0 Lymphs: ___ Monos: 10.4 Eos:
3.1 Baso: 0.8 Im ___: 0.4 AbsNeut: 3.31 AbsLymp: 1.10* AbsMono:
0.54 AbsEos: 0.16 AbsBaso: 0.04 
___ 02:15PM BLOOD UreaN: 14 Creat: 1.0 Na: 136 K: 4.6 Cl: 
99
HCO3: 26 AnGap: 11 
___ 02:15PM BLOOD ALT: 10 AST: 13 LD(LDH): 145 AlkPhos: 44
TotBili: 0.3 
___ 02:15PM BLOOD TotProt: 6.0* Albumin: 3.7 Globuln: 2.3
Calcium: 9.3 Phos: 3.3 Mg: 2.0 UricAcd: 2.8* 

DISCHARGE LABS

___ 09:17AM BLOOD WBC-4.1 RBC-4.24* Hgb-11.5* Hct-35.8* 
MCV-84 MCH-27.1 MCHC-32.1 RDW-14.5 RDWSD-44.4 Plt ___
___ 09:17AM BLOOD Neuts-60.3 ___ Monos-10.8 Eos-3.4 
Baso-1.5* Im ___ AbsNeut-2.45 AbsLymp-0.97* AbsMono-0.44 
AbsEos-0.14 AbsBaso-0.06
___ 06:15AM BLOOD Glucose-85 UreaN-13 Creat-0.9 Na-140 
K-4.4 Cl-106 HCO3-26 AnGap-8*
___ 06:15AM BLOOD ALT-10 AST-15 LD(LDH)-139 AlkPhos-39* 
TotBili-0.4
___ 06:15AM BLOOD Calcium-8.4 Phos-3.6 Mg-1.8 UricAcd-3.2*
 
Brief Hospital Course:
Mr. ___ is an ___ gentleman
with a newly diagnosed CLL/SLL. He initiated treatment with
Ibrutinib and initiated Venetoclax on ___. He's now admitted
for Venetoclax dose escalation and TLS monitoring (50 mg -> 100
mg). 

#CLL/SLL. Noted for extensive lymphadenopathy in most stations,
although all are mildly FDG avid and no predominantly enlarged
lymph node. Based on this, there is no evidence for
transformation. LDH is normal.  Cytogenetics does show evidence
for Trisomy 12 which is a common cytogenetic feature of chronic
lymphocytic leukemia and associated with an intermediate
prognosis.  Due to this, will add venetoclax onto Ibrutinib per
primary oncologist recommendations. Tolerated Venetoclax 20 mg
daily without complication or evidence of TLS.
-Continue Ibrutinib 420mg daily
-Venetoclax 100mg daily (___)
-TLS monitoring BID with no acute issues
-Allopurinol/IVF
-Acyclovir ppx
- plan to stay on this dose through the holidays and then 
readmit
for further dose escalation on ___. 
- f/u G6PD

#Rotator cuff tear: Seen outpatient by ortho and obtained MRI, 
no
surgical correction warranted currently. Continues with Tylenol
prn and outpatient ___

#Neck pain: Last admission c/o right sided neck aches that 
hinder his range of motion of his right arm. No recent trauma to 

area. Considered soft tissue hematoma in setting of Imbruvica 
vs. degenerative disc disease vs. musculoskeletal etiology. 
MRI C-Spine which showed an effusion that was c/f 
degenerative changes but also considered septic arthritis. Ortho 

spine and rheumatology were consulted, and felt etiology was 
most likely degenerative disease, felt it was unlikely to be 
septic arthritis. Given low suspicion per ortho spine/rheum, did 

not start antibiotics. Consults recommended conservative 
management with pain medications, and if pain was worsening 
could consider CT guided biopsy. last admission discharged
patient on Diazepam 2.5mg PO TID, currently not requiring 

CHRONIC ISSUES:

#MURMUR: new per outpatient oncologist but not new per patient,
asymptomatic, echo ___ with normal ejection fraction 

#HTN: continue home ramipril with parameters

#BPH: continue home tamsulosin 

Prophylaxes:
# FEN: regular diet
# Contact: ___ Wife
# ___: home
# Code status: Full

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acyclovir 400 mg PO Q12H 
2. Allopurinol ___ mg PO DAILY 
3. Ramipril 10 mg PO DAILY 
4. Tamsulosin 0.4 mg PO QHS 
5. Cyanocobalamin 1000 mcg PO DAILY 
6. ibrutinib 420 mg oral DAILY 
7. Venetoclax 100 mg PO DAILY 
8. melatonin 5 mg oral QHS 

 
Discharge Medications:
1.  Acyclovir 400 mg PO Q12H  
2.  Allopurinol ___ mg PO DAILY  
3.  Cyanocobalamin 1000 mcg PO DAILY  
4.  ibrutinib 420 mg oral DAILY  
5.  melatonin 5 mg oral QHS  
6.  Ramipril 10 mg PO DAILY  
7.  Tamsulosin 0.4 mg PO QHS  
8.  Venetoclax 100 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
CLL

Secondary:
rotator cuff tear
HTN
BPH

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,

You were admitted for monitoring while we increased your dose of 
 venetoclax. You tolerated this very well and will be discharged 
home.  You will follow up with Dr. ___ as stated below. It was 
a pleasure taking care of you.
 
Followup Instructions:
___